US06686381B2
{2-[5-(2-Methyl-benzoyl)-thiazol-2-ylamino]-ethyl}-carbamic Acid tert-Butyl Ester
The title compound was synthesised from [2-(3-Dimethylaminomethylene-thioureido)-ethyl]-carbamic acid tert-butyl ester and 2-methyl phenacylbromide (Literature: WO9907666) according to the procedure described for Example 25 in 75% yield. MS (m/e): 362.1 (MH+, 100%).

reactant | [2-(3-Dimethylaminomethylene-thioureido)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCNC(=S)N=CN(C)C)=O | C11H22N4O2S
reactant | 2-methyl phenacylbromide | CC1=C(C(CBr)=O)C=CC=C1 | C9H9BrO
product | {2-[5-(2-Methyl-benzoyl)-thiazol-2-ylamino]-ethyl}-carbamic Acid tert-Butyl Ester | 75% yield | C(C)(C)(C)OC(NCCNC=1SC(=CN1)C(C1=C(C=CC=C1)C)=O)=O | C18H23N3O3S
